US07078414B2
0.45 mL (5.16 mmol) of oxalyl chloride is added to a solution, cooled to a temperature in the region of 5° C., of 0.45 g (1.64 mmol) of 3-carboxy-1-(quinol-8-yl)-1H-pyrrole hydrochloride in 20 mL of dichloromethane under an argon atmosphere. After stirring at a temperature in the region of 22° C. for 15 hours, the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa), then it is placed under an argon atmosphere and 20 mL of dichloromethane and 0.45 mL (5.16 mmol) of oxalyl chloride are successively added. After stirring at a temperature in the region of 22° C. for 15 hours, concentrating the reaction medium to dryness under reduced pressure (2.7 kPa) gives 0.418 g of 3-chlorocarbonyl-1-(quinol-8-yl)-1H-pyrrole hydrochloride in the form of a cream-coloured solid which is used directly in the following step.

reactant | oxalyl chloride | 5.16 mmol, 0.45 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-carboxy-1-(quinol-8-yl)-1H-pyrrole hydrochloride | 1.64 mmol, 0.45 g | Cl.C(=O)(O)C1=CN(C=C1)C=1C=CC=C2C=CC=NC12
reactant | oxalyl chloride | 5.16 mmol, 0.45 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 3-chlorocarbonyl-1-(quinol-8-yl)-1H-pyrrole hydrochloride | 0.418 g | Cl.ClC(=O)C1=CN(C=C1)C=1C=CC=C2C=CC=NC12 | InChI=1S/C14H9ClN2O.ClH/c15-14(18)11-6-8-17(9-11)12-5-1-3-10-4-2-7-16-13(10)12;/h1-9H;1H
